US08110571B2
To a solution of 2 g of 3,4-diaminophenol in 150 cm3 of acetone are added 2.264 cm3 of triethylamine and 3.425 g of 2,6-difluorobenzenesulfonyl chloride. The reaction medium is stirred at a temperature in the region of 20° C. overnight. The insoluble material is filtered off and rinsed with three times 50 cm3 of acetone, and the filtrate is evaporated to dryness under reduced pressure (3.5 kPa). The residue is taken up in 300 cm3 of dichloromethane, washed with three times 50 cm3 of water, dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure. After flash chromatography on a column of silica [eluent: dichloromethane/methanol (95/5 by volume)], 650 mg of 3,4-diaminophenyl 2,6-difluorobenzenesulfonate are obtained in the form of a black resin, the characteristics of which are as follows:

reactant | 3,4-diaminophenol | 2 g | NC=1C=C(C=CC1N)O | C6H8N2O
reactant | triethylamine | 2.264 cm3 | C(C)N(CC)CC | C6H15N
reactant | 2,6-difluorobenzenesulfonyl chloride | 3.425 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | acetone | 150 cm3 | CC(=O)C | C3H6O
product | 3,4-diaminophenyl 2,6-difluorobenzenesulfonate | 650 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)OC1=CC(=C(C=C1)N)N | C12H10F2N2O3S
